US07018988B2
(2S,4EZ)-4-{[(4-methoxybenzyl)oxy]imino}-1-(4-phenoxybenzoyl)-N-[2-(1H-pyrrol-1-yl)phenyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, 4-phenoxybenzoyl chloride, and 2-(1H-pyrrol-1-yl)phenylamine the title compound was obtained in 55% purity by LC/MS. MS(ESI+): m/z=601.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | 4-phenoxybenzoyl chloride | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
reactant | 2-(1H-pyrrol-1-yl)phenylamine | N1(C=CC=C1)C1=C(C=CC=C1)N | C10H10N2
product | (2S,4EZ)-4-{[(4-methoxybenzyl)oxy]imino}-1-(4-phenoxybenzoyl)-N-[2-(1H-pyrrol-1-yl)phenyl]-2-pyrrolidinecarboxamide | COC1=CC=C(CON=C2C[C@H](N(C2)C(C2=CC=C(C=C2)OC2=CC=CC=C2)=O)C(=O)NC2=C(C=CC=C2)N2C=CC=C2)C=C1 | C36H32N4O5
